US06423708B1
3-(4-Chlorobenzyl)-imidazolidine-2,4-dione
Under a nitrogen atmosphere in a flame-dried flask, with magnetic stirring, the potassium salt of imidazolidine-2,4-dione (1.382 g, 10 mmol) and 4-chlorobenzyl bromide (2.055 g, 10 mmol) were combined with 15 mL of anhydrous N,N-dimethylformamide (DMF) and heated to 170-175° C. for 5 hours. The reaction was then cooled to room temperature and poured over 50 mL of water to produce a waxy white precipitate. Recrystallization from ethyl acetate:hexanes produced the title product as a white crystalline solid, 0.775 g (34.5%).

reactant | potassium | [K] | K
reactant | imidazolidine-2,4-dione | 10 mmol, 1.382 g | N1C(NC(C1)=O)=O | C3H4N2O2
reactant | 4-chlorobenzyl bromide | 10 mmol, 2.055 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-(4-Chlorobenzyl)-imidazolidine-2,4-dione | ClC1=CC=C(CN2C(NCC2=O)=O)C=C1 | C10H9ClN2O2
